US05143923
N-Methyl-N-[3-(1-(4-fluorobenzoyl)piperidinyl)propyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride
A mixture of N-methyl-N-(3-chloropropyl)-1,2-benzisothiazole-3-carboxamide (7.13 g), 1-(4-fluorobenzoyl)piperidine (6.44 g), potassium carbonate (7.33 g), and sodium iodide (300 mg) in dry 1-methyl-2-pyrrolidinone (150 ml) was heated to 120° C., with stirring, under nitrogen. After 24 hrs, the mixture was allowed to cool to room temperature and the residue was partitioned between ethyl acetate/water. The organic phase was washed with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The crude residue was chromatographed twice on silica using 10:90 methanol:ethyl acetate as the eluent. The appropriate fractions were collected and evaporated. The residue was dissolved in ether and hydrogen chloride in ethanol was added Recrystallized of the precipitate from dichloromethane/ether gave 0.642 g (5.09%) of produ mp 189°-191° C.

reactant | N-methyl-N-(3-chloropropyl)-1,2-benzisothiazole-3-carboxamide | 7.13 g | CN(C(=O)C1=NSC2=C1C=CC=C2)CCCCl | C12H13ClN2OS
reactant | 1-(4-fluorobenzoyl)piperidine | 6.44 g | FC1=CC=C(C(=O)N2CCCCC2)C=C1 | C12H14FNO
reactant | potassium carbonate | 7.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 300 mg | [I-].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | N-Methyl-N-[3-(1-(4-fluorobenzoyl)piperidinyl)propyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride | Cl.Cl.CN(C(=O)C1=NSC2=C1C=CC=C2)CCCC2N(CCCC2)C(C2=CC=C(C=C2)F)=O | InChI=1S/C24H26FN3O2S.2ClH/c1-27(24(30)22-20-9-2-3-10-21(20)31-26-22)15-6-8-19-7-4-5-16-28(19)23(29)17-11-13-18(25)14-12-17;;/h2-3,9-14,19H,4-8,15-16H2,1H3;2*1H
